US07678801B2
116c) 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-(phenylmethyl)benzamide
3-[8-(2,6-Difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide (0.084 g, 0.154 mmol) and (1H-imidazol-2-ylmethyl)amine dihydrochloride (0.039 g, 0.23 mmol) were dissolved in CH2Cl2 (5 mL) and triethylamine (0.7 mL). The resulting mixture was stirred under argon at room temperature overnight. The solvents were pumped off in vacuo, and the residue taken up in EtOAc and 1 N NaOH. The organic phase was washed with brine, dried over anhydrous Na2SO4 filtered and evaporated. The residue was flash chromatographed on silica gel (20 g) eluted with 6:1:0.05 CH2Cl2:isopropanol:NH4OH. The material isolated was not pure, and was rechromatographed on silica gel (20 g) eluted with 0-5% MeOH/CH2Cl2 to give the title compound as a white amorphous solid. mp (dec) 185-190° C. LC-MS m/z 578 (M+H)+, 1.76 min (ret time).

reactant | 3-[8-(2,6-Difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(phenylmethyl)benzamide | 0.154 mmol, 0.084 g | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2C)S(=O)C)=O | C29H22F2N4O3S
reactant | (1H-imidazol-2-ylmethyl)amine dihydrochloride | 0.23 mmol, 0.039 g | Cl.Cl.N1C(=NC=C1)CN
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaOH | 1 N | [OH-].[Na+]
product | 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-(phenylmethyl)benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2C)NCC=2NC=CN2)=O | C32H25F2N7O2
